US09085555B2
E. (2S,4R)-4-Fluoro-4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester
To a solution of (2S,4R)-4-(tert-butyl-dimethyl-silanyloxymethyl)-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (4.10 g, 8.77 mmol) in THF (80 mL) at RT was added 1M TBAF in THF (17.53 mL, 17.53 mmol). The reaction was stirred at RT for 30 min then poured into water and extracted with EtOAc. The organic layer was dried with Na2SO4, filtered and concentrated. Purification by flash column chromatography on silica gel (c-hexane/EtOAc 3:2). MS (UPLC/MS): 354 [M+H]+, 398 [M+HCOO]−; tR (HPLC conditions f): 2.07 min.

reactant | (2S,4R)-4-(tert-butyl-dimethyl-silanyloxymethyl)-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 8.77 mmol, 4.10 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(F)C(O[SiH2]C(C)(C)C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H38FNO5Si
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 17.53 mmol, 17.53 mL | C1CCOC1 | C4H8O
product | (2S,4R)-4-Fluoro-4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(CO)F)C(=O)OCC1=CC=CC=C1 | C18H24FNO5
